US07259183B2
Preparation of (4-cyclobutyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine
The title compound was synthesized in analogy to (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine (described in example S53) using 180 mg of 4-cyclobutyl-benzaldehyde (1.23 mmol) (described in example S113), 213 mg of 2-(3-trifluoromethylphenyl)-ethylamine (1.23 mmol) and 64 mg of sodium borohydride (1.69 mmol). The isolated yellow oil (343 mg, 92%) was used in the following step without further purification. 1H NMR (CDCl3, 300 MHz): δ 1.85 (m, 1H), 1.92-2.21 (m, 3H), 2.33 (m, 2H), 2.89 (m, 4H), 3.53 (quint, J=9 Hz, 1H), 3.78 (s, 2H), 7.19 (m, 4H), 7.39 (m, 2H), 7.46 (m, 2H).

reactant | (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine | C1(CC1)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C19H19F4N
reactant | 4-cyclobutyl-benzaldehyde | 1.23 mmol, 180 mg | C1(CCC1)C1=CC=C(C=O)C=C1 | C11H12O
reactant | 2-(3-trifluoromethylphenyl)-ethylamine | 1.23 mmol, 213 mg | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | sodium borohydride | 1.69 mmol, 64 mg | [BH4-].[Na+]
product | (4-cyclobutyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine | C1(CCC1)C1=CC=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1 | C20H22F3N
